US07754462B2
8. Synthesis of Lactose by Reverse Hydrolysis with β-Galactosidase from Bacillus circulans
100 mmol/l of glucose, 20 mmol/l of galactose and 2 mg/ml of galactosidase are incubated at 35° C. in a mixture of water and MMIm MeSO4 for 24 h. The reaction is stopped by boiling for 10 minutes at 100° C., the reaction solution is filtered (Minisart RC 4 Sartorius injection filter) and the concentration of the reaction components at this time is determined chromatographically (Aminex HPX-87H cation exchange column from BioRad with corresponding preparatory column, 0.006 M sulphuric acid as eluent with a flux of 0.8 ml/min and a column temperature of 65° C. Detection is accomplished using UV at 208 nm and using the refractive index).

reactant | glucose | 100 mmol/l | O=C[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | C6H12O6
reactant | galactose | 20 mmol/l | O=C[C@H](O)[C@@H](O)[C@@H](O)[C@H](O)CO | C6H12O6
reactant | MeSO4 | COS(=O)(=O)[O-]
solvent | water | O | H2O
solvent | sulphuric acid | 0.006 M | S(O)(O)(=O)=O | H2O4S
product | Lactose | OC1[C@H](O)[C@@H](O)[C@H](O[C@H]2[C@H](O)[C@@H](O)[C@@H](O)[C@H](O2)CO)[C@H](O1)CO | C12H22O11
